US06395750B1
N-Methyl-N-phenyl-4-chloro-1,2-dihydro-1,5-dimethyl-2-oxo-quinoline-3-carboxamide
N-methyl-N-phenyl-1,2-dihydro-4-hydroxy-1,5-dimethyl-2-oxo-quinoline-3-carboxamide (3.5 g) was heated in phosphorus oxytrichloride (7 ml) at 100° C. for 2 hours. The mixture was concentrated, dissolved in dichloromethane and washed with water. The organic phase was dried (Na2SO4) and concentrated. The residue was triturated with ethyl acetate and filtered to give the title compound (2.3 g).

reactant | N-methyl-N-phenyl-1,2-dihydro-4-hydroxy-1,5-dimethyl-2-oxo-quinoline-3-carboxamide | 3.5 g | CN(C(=O)C=1C(N(C2=CC=CC(=C2C1O)C)C)=O)C1=CC=CC=C1 | C19H18N2O3
reactant | phosphorus oxytrichloride | 7 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | N-Methyl-N-phenyl-4-chloro-1,2-dihydro-1,5-dimethyl-2-oxo-quinoline-3-carboxamide | 2.3 g | CN(C(=O)C=1C(N(C2=CC=CC(=C2C1Cl)C)C)=O)C1=CC=CC=C1 | C19H17ClN2O2
